US08420655B2
5-[1-tert-Butyl-2-(5-methoxy-2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (50 mg, 0.194 mmol) in DMF (10 mL) is added 5-methoxy-2-1,2,4-triazol-1-yl-benzaldehyde (47 mg, 0.233 mmol) at room temperature. Oxone (119 mg, 0.194 mmol) in H2O (2 mL) is added and the solution is stirred for 1 hour. Saturated sodium thiosulfate solution (5 mL) is added and the mixture is extracted with EtOAc (3×10 mL) and H2O (10 mL). The combined organic layer is dried with MgSO4, filtered and concentrated. The residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford the title compound (41 mg, 47%) as a pale brown solid. LCMS (ESMS): m/z 441.20 (M++1).

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.194 mmol, 50 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 5-methoxy-2-1,2,4-triazol-1-yl-benzaldehyde | 0.233 mmol, 47 mg | COC=1C=CC(=C(C=O)C1)N1N=CN=C1 | C10H9N3O2
reactant | Oxone | 0.194 mmol, 119 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
product | 5-[1-tert-Butyl-2-(5-methoxy-2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine | 41 mg, 47% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)OC)N2N=CN=C2 | C24H24N8O
